US07166595B2
c) 2-(2-{1-[1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-yl}-ethyl)-isoindole-1,3-dione
To N-[1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-N-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-oxo-butyl]-4-methyl-benzamide (0.884 g, 1.62 mmol) in glacial acetic acid (15 mL) was added ammonium acetate (6.22 g, 80.8 mmol) and the reaction was heated at reflux for 16 h. The reaction was concentrated in vacuo and the residue was basified with saturated NaHCO3, extracted into EtOAc, washed with water and brine, dried (Na2SO4), and evaporated to dryness. The residue was purified by flash chromatography on silica gel (3:1 EtOAc:hexanes) to give the title compound as a pale yellow foam (0.371 g, 38%). MS(ES+) m/c 600 [M+H]+.

reactant | N-[1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-N-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-oxo-butyl]-4-methyl-benzamide | 1.62 mmol, 0.884 g | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C)C)C(C(C)C)N(C(C1=CC=C(C=C1)C)=O)CC(CCN1C(C2=CC=CC=C2C1=O)=O)=O | C37H38N4O5
reactant | ammonium acetate | 80.8 mmol, 6.22 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 2-(2-{1-[1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-yl}-ethyl)-isoindole-1,3-dione | 0.371 g, 38% | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C)C)C(C(C)C)N1C(=NC(=C1)CCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)C | C37H37N5O3
